US07790756B2
To a solution of tert-butyl 1-(4-fluoro-3-nitrophenyl)-3-isopropyl-1H-pyrazole-5-carboxylate (0.74 g, 2.1 mmol) in THF/water (12 mL) was added LiOH (300 mg, 13 mmol) and H2O2 (30% wt, 0.96 mL). The reaction mixture was heated overnight at 60° C. Na2S2O3 solution was added until the peroxide test (starch-iodide paper) was negative. Acetic acid was added until the pH was 4-5. The solution was extracted with EtOAc and the organic layer was washed with brine, dried (MgSO4), concentrated in vacuo and purified by silica gel column chromatography (EtOAc/hexanes) to obtain tert-butyl 1-(4-hydroxy-3-nitrophenyl)-3-isopropyl-1H-pyrazole-5-carboxylate (0.27 g, 37% yield). MS (ESI) m/z: 348.3 (M+H+).

reactant | tert-butyl 1-(4-fluoro-3-nitrophenyl)-3-isopropyl-1H-pyrazole-5-carboxylate | 2.1 mmol, 0.74 g | FC1=C(C=C(C=C1)N1N=C(C=C1C(=O)OC(C)(C)C)C(C)C)[N+](=O)[O-] | C17H20FN3O4
reactant | LiOH | 13 mmol, 300 mg | [Li+].[OH-]
reactant | H2O2 | OO | H2O2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | THF water | 12 mL | C1CCOC1.O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | tert-butyl 1-(4-hydroxy-3-nitrophenyl)-3-isopropyl-1H-pyrazole-5-carboxylate | 0.27 g, 37% yield | OC1=C(C=C(C=C1)N1N=C(C=C1C(=O)OC(C)(C)C)C(C)C)[N+](=O)[O-] | C17H21N3O5
